US06900215B2
4-Fluoro-3-([1,2,4]triazol-1-yl)phenylboronic acid (100 mg, 0.48 mmol) was coupled to 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine (117 mg, 0.44 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 2% methanol, then recrystallisation from dichloromethane/isohexane, gave 3-[4-fluoro-3-([1,2,4]triazol-1-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid: δH (360 MHz, CDCl3) 7.31 (1H, d, J 7), 7.51-7.60 (2H, m), 8.16 (2H, m), 8.21 (1H, dd, J 7 and 2), 8.80-8.83 (2H, m); m/z (ES+) 349 (M++H).

reactant | 4-Fluoro-3-([1,2,4]triazol-1-yl)phenylboronic acid | 0.48 mmol, 100 mg | FC1=C(C=C(C=C1)B(O)O)N1N=CN=C1 | C8H7BFN3O2
reactant | 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.44 mmol, 117 mg | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
product | 3-[4-fluoro-3-([1,2,4]triazol-1-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)N2N=CN=C2 | C15H8F4N6
